US06784188B2
Using the general method of Example 143 except that pyridine was used in place of chloroform, 1-(4-aminobutyl)-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.25 g, 3.2 mmol) was reacted with 4-morpholinecarbonyl chloride (0.41 mL, 3.5 mmol) to provide 0.50 g of N-(4-[4-amino-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl morpholine-4-carboxamide as a light brown solid, m.p. 71.5-72.1° C. Analysis: Calculated for C28H34N6O3. 0.5H2O: %C, 65.73; %H, 6.90; %N, 16.43; Found; %C, 65.43; %H, 6.90; %N, 16.29.

reactant | 1-(4-aminobutyl)-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.2 mmol, 1.25 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCOC2=CC=CC=C2 | C23H27N5O
reactant | 4-morpholinecarbonyl chloride | 3.5 mmol, 0.41 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[4-amino-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl morpholine-4-carboxamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCC2N(CCOC2)C(=O)N)CCCOC2=CC=CC=C2 | C28H34N6O3
